US08957203B2
A solution of 3-(dimethylamino)-6-methoxyisoquinolin-1-ol (700 mg, 3.21 mmol) in POCl3 (2 ml, 21.46 mmol) was refluxed for 4 h. The reaction mixture was concentrated. The residue was dissolved in DCM and the pH was adjusted to 7 with 4N NaOH. The organic phase was collected and dried over sodium sulfate, filtered, then concentrated under vacuum. The crude material was purified by silica gel chromatography using 50% DCM in hexanes as eluent. The product fractions were collected and the solvent was removed under vacuum to give 1-chloro-6-methoxy-N,N-dimethylisoquinolin-3-amine (400 mg, 53% yield). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.96 (d, J=9.3 Hz, 1H), 6.87 (dd, J=9.2, 2.4 Hz, 1H), 6.80 (d, J=2.3 Hz, 1H), 6.43 (s, 1H), 3.91 (s, 3H), 3.14 (s, 6H); MS m/z 237.0 (M++1).

reactant | 3-(dimethylamino)-6-methoxyisoquinolin-1-ol | 3.21 mmol, 700 mg | CN(C=1N=C(C2=CC=C(C=C2C1)OC)O)C | C12H14N2O2
reactant | POCl3 | 21.46 mmol, 2 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 1-chloro-6-methoxy-N,N-dimethylisoquinolin-3-amine | 400 mg, 53% yield | ClC1=NC(=CC2=CC(=CC=C12)OC)N(C)C | C12H13ClN2O
